US05149859
Synthesis of methyl 6-(6-methoxy-2-naphthyl)-5-hexynoate
Into a solution of 2.51 g (9.2 mmol) of 6-methoxy-2-naphthyl bromide in 31 ml of diethylamine distilled with calcium hydride were charged 324 mg (0.46 mmol) of bistriphenylphosphine palladium dichloride and 192 mg of cupric iodide (1.01 mmol), followed by stirring. To the mixture was gradually added 1.06 g (9.4 mmol) of methyl 5-hexynoate, and the mixture was stirred at room temperature overnight (about 15 hours). Diethylamine was evaporated under a reduced pressure, to the residue were added ethyl acetate and water, and the mixture was extracted with ethyl acetate. Anhydrous magnesium sulfate was introduced into the organic layer for drying.

reactant | 6-methoxy-2-naphthyl bromide | 9.2 mmol, 2.51 g | COC=1C=C2C=CC(=CC2=CC1)Br | C11H9BrO
reactant | calcium hydride | [H-].[Ca+2].[H-]
reactant | methyl 5-hexynoate | 9.4 mmol, 1.06 g | C(CCCC#C)(=O)OC | C7H10O2
solvent | diethylamine | 31 ml | C(C)NCC | C4H11N
product | methyl 6-(6-methoxy-2-naphthyl)-5-hexynoate | COC=1C=C2C=CC(=CC2=CC1)C#CCCCC(=O)OC | C18H18O3
